US07196104B2
Preparation CW: 2-Cyclopropyl-thiazole-4-carboxylic acid
To a mixture of ethyl 2-cyclopropyl-thiazole-4-carboxylate (0.443 g, 2.249 mmol) and LiOH monohydrate (0.472 g, 11.243 mmol) was added a mixture of THF/MeOH/H2O (3:1:1, 50 mL). The reaction was stirred at RT for 24 h. The solution was acidified by addition of conc. HCl (0.1 mL) and the volatiles were removed. Remaining aqueous solution was extracted with EtOAc (3×20 mL). The combined organic layers were dried over Na2SO4 and evaporated to dryness. MS m/z: 169.9 (M+H) Calc'd. for C7H7NO2S-170.0.

reactant | ethyl 2-cyclopropyl-thiazole-4-carboxylate | 2.249 mmol, 0.443 g | C1(CC1)C=1SC=C(N1)C(=O)OCC | C9H11NO2S
reactant | HCl | 0.1 mL | Cl | ClH
solvent | THF MeOH H2O | 50 mL | C1CCOC1.CO.O
product | 2-Cyclopropyl-thiazole-4-carboxylic acid | C1(CC1)C=1SC=C(N1)C(=O)O | C7H7NO2S
